US07618996B2
Cesium carbonate (2.757 g, 8.44 mmol) was added to a solution of 3,4-difluoro-benzaldehyde (1.0 g, 7.037 mmol) and 3-methoxyphenol (875 mg, 7.05 mmol) dissolved in DMF (20 mL). The reaction was heated to 120° C. for 24 hours. The reaction mixture was then poured into 300 mL of water and extracted 3 times with 60 mL of ethyl acetate. The combined organic layers were washed with water (2 times), brine, and dried over sodium sulfate. The organic layer was filtered and concentrated under reduced pressure. 3-Fluoro-4-(3-methoxy-phenoxy)-benzaldehyde (1.0 g) was isolated using flash silica gel and eluting with 10% ethyl acetate and heptane.

reactant | Cesium carbonate | 8.44 mmol, 2.757 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,4-difluoro-benzaldehyde | 7.037 mmol, 1.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3-methoxyphenol | 7.05 mmol, 875 mg | COC=1C=C(C=CC1)O | C7H8O2
reactant | water | 300 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Fluoro-4-(3-methoxy-phenoxy)-benzaldehyde | 1.0 g | FC=1C=C(C=O)C=CC1OC1=CC(=CC=C1)OC | C14H11FO3
